US08877975B2
5.4.4. Synthesis of 1-(3,4-dichlorophenyl)-4-oxocyclohexanecarbonitrile
To 12-L, four-neck flask equipped with a temperature probe, reflux condenser and overhead stirrer was charged with methyl 5-cyano-5-(3,4-dichlorophenyl)-2-oxocyclohexanecarboxylate (424 g, crude, 350 g theoretical, 1.07 mol), brine (500 mL) and DMSO (3.4 L). The mixture was heated to 135° C. and stirred for 12 h. The progress of the reaction was monitored by TLC (4:6 EtOAc/Heptane; stained using Hanessian solution). The reaction mixture was cooled to room temperature and combined with the crude mixture from a previous 145 g batch reaction, diluted with water (6 L), extracted with MTBE (6 L), and then EtOAc/MTBE (3:5, 8 L). The organics were combined and washed with brine (4×2.5 L), dried over MgSO4, filtered and concentrated under reduced pressure at 40-45° C. to afford a residue which was triturated with heptane/MTBE (1:1, 1.2 L). The resulting slurry was stirred for 0.5 h, filtered and dried under high vacuum for 2 h to afford the title compound [313 g, 77% over 2 steps, 100% (AUC) by GC] as an off-white solid. 1H NMR (DMSO-d6, 300 MHz): δ 7.9 (d, 1H), 7.75 (dd, 1H), 7.6 (dd, 1H), 2.8-2.5 (m, 2H), 2.48-2.3 (m, 6H).

reactant | methyl 5-cyano-5-(3,4-dichlorophenyl)-2-oxocyclohexanecarboxylate | 1.07 mol, 424 g | C(#N)C1(CCC(C(C1)C(=O)OC)=O)C1=CC(=C(C=C1)Cl)Cl | C15H13Cl2NO3
reactant | DMSO | 3.4 L | CS(=O)C | C2H6OS
reactant | EtOAc Heptane | CCOC(=O)C.CCCCCCC
solvent | brine | 500 mL | [Cl-].[Na+].O
solvent | water | 6 L | O | H2O
product | 1-(3,4-dichlorophenyl)-4-oxocyclohexanecarbonitrile | 313 g | ClC=1C=C(C=CC1Cl)C1(CCC(CC1)=O)C#N | C13H11Cl2NO
